US03951982
From 12.9 g. of 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile and 13.8 g. of N-methylhomopiperazine in 180 ml. of dimethyl sulfoxide, there is obtained 6-[p-(hexahydro-4-methyl-1H-1,4-diazepin-1-yl)phenyl]-1,2-dihydro-2-oxonicotinonitrile.

reactant | 6-(p-fluorophenyl)-1,2-dihydro-2-oxonicotinonitrile | FC1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C12H7FN2O
reactant | N-methylhomopiperazine | CN1CCNCCC1 | C6H14N2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 6-[p-(hexahydro-4-methyl-1H-1,4-diazepin-1-yl)phenyl]-1,2-dihydro-2-oxonicotinonitrile | CN1CCN(CCC1)C1=CC=C(C=C1)C=1NC(C(C#N)=CC1)=O | C18H20N4O
